US06900215B2
To a solution of 2-(2-fluoro-5-nitrophenyl)-4-methylpyridine (0.6 g, 2.6 mmol) in ethanol (50 ml) was added platinum(IV) oxide (100 mg) and the mixture stirred for 35 min under hydrogen (40 psi). The catalyst was filtered off and the solution evaporated to dryness to give 4-fluoro-3-(4-methylpyridin-2-yl)phenylamine as a brown oil: δH (400 MHz, CDCl3) 8.55 (1H, d, J 5), 7.59-7.62 (1H, m), 7.27 (1H, dd, J 6 and 3), 7.06-7.09 (1H, m), 6.95 (1H, dd, J 11 and 9), 6.64-6.68 (1H, m), 2.60-3.20 (2H, br), 2.41 (3H, s); m/z (ES+) 203 (M++H).

reactant | 2-(2-fluoro-5-nitrophenyl)-4-methylpyridine | 2.6 mmol, 0.6 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC(=C1)C | C12H9FN2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 100 mg | [Pt](=O)=O
product | 4-fluoro-3-(4-methylpyridin-2-yl)phenylamine | FC1=C(C=C(C=C1)N)C1=NC=CC(=C1)C | C12H11FN2
